US04100295
To a solution of 16.8 g of crude 2-oximino-3,3-dimethyl-1,4-dioxane and 2 drops of triethylamine was added 17 ml of methyl isocyanate. The reaction mixture was left at ambient temperature for 16 hours. The reaction mixture was concentrated and filtered to yield 4.0 g of 3,3-dimethyl-2-[O-(methylcarbamoyl)oximino]-1,4-dioxane, m.p. 144°-146° C. (m/e 202).

reactant | 2-oximino-3,3-dimethyl-1,4-dioxane | 16.8 g | N(O)=C1OCCOC1(C)C | C6H11NO3
reactant | methyl isocyanate | 17 ml | CN=C=O | C2H3NO
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | 3,3-dimethyl-2-[O-(methylcarbamoyl)oximino]-1,4-dioxane | 4.0 g | CC1(C(OCCO1)=NOC(NC)=O)C | C8H14N2O4
